US06083961
To a suspension of benzyl 3-benzyloxy-2-nitrobenzoate (640 mg) in ethanol (5 ml) was added 1N sodium hydroxide solution (1.94 ml) at ambient temperature, and the mixture was stirred at 60° C. for 1 hour. The reaction mixture was adjusted to pH 4, and the resulting precipitates were collected by filtration and dried to give 3-benzyloxy-2-nitrobenzoic acid (439 mg).

reactant | benzyl 3-benzyloxy-2-nitrobenzoate | 640 mg | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)[N+](=O)[O-] | C21H17NO5
reactant | sodium hydroxide | 1N, 1.94 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-benzyloxy-2-nitrobenzoic acid | 439 mg | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C14H11NO5
